US06008212
Solid 4-(2-acetoxy-ethyl)-8-nitro-naphthalene-1-sulfonyl chloride (39.64 g, 111 mmol) was added to an ice-cold, 6.8 M solution of ammonia in methanol (408 mL, 277 mmol). The cooling bath was removed, the reaction flask was stoppered, and the reaction was stirred at room temperature. After 4 days, the dark amber solution was concentrated under vacuum to a dark gum. The residue was triturated vigorously shaken with water (300 mL) to give a solid which was washed with water (150 mL) then ether (150 mL) and dried under vacuum. The resulting brown solid was recrystallized from isopropanol (300 mL) to afford 4-(2-hydroxy-ethyl)-8-nitro-naphthalene-1-sulfonamide (27.79 g) as tan flakes.

reactant | 4-(2-acetoxy-ethyl)-8-nitro-naphthalene-1-sulfonyl chloride | 111 mmol, 39.64 g | C(C)(=O)OCCC1=CC=C(C2=C(C=CC=C12)[N+](=O)[O-])S(=O)(=O)Cl | C14H12ClNO6S
reactant | ammonia | N | H3N
reactant | methanol | 277 mmol, 408 mL | CO | CH4O
product | 4-(2-hydroxy-ethyl)-8-nitro-naphthalene-1-sulfonamide | 27.79 g | OCCC1=CC=C(C2=C(C=CC=C12)[N+](=O)[O-])S(=O)(=O)N | C12H12N2O5S
